* Spec2Testbench deterministic deck
* TestBench: acp28-p24_llm_compiled
* AnalogCoder-Pro p24: An Opamp integrator with resistor R1 and capacitor Cf
* Source: analogcoder\AnalogCoderPro-master\sample_design\p24\p24.py
* AnalogCoder-Pro type: Integrator
* Inputs: Vin
* Outputs: Vout

.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.5)
.MODEL pmos_model PMOS (LEVEL=1 KP=5e-05 VTO=-0.5)
* Opamp subcircuit imported from AnalogCoder-Pro opamp.py
.SUBCKT Opamp Vinp Vinn Vout
.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.5)
.MODEL pmos_model PMOS (LEVEL=1 KP=5e-05 VTO=-0.5)
Vdd Vdd 0 5
Vbias Vbias 0 1.5
M1 Voutp Vinp Source3 Source3 nmos_model W=5e-05 L=1e-06
M2 Vout Vinn Source3 Source3 nmos_model W=5e-05 L=1e-06
M3 Source3 Vbias 0 0 nmos_model W=0.0001 L=1e-06
M4 Voutp Voutp Vdd Vdd pmos_model W=0.0001 L=1e-06
M5 Vout Voutp Vdd Vdd pmos_model W=0.0001 L=1e-06
.ENDS Opamp

Vdd Vdd 0 5
Vref Vref 0 2.5
Vin Vin 0 PULSE(2.0 3.0 1e-06 1e-06 1e-06 0.01 0.02)
Xop Vref Vinn Vout Opamp
R1 Vin Vinn 10k
Cf Vout Vinn 100n
.TEMP 25.0
.control
set wr_singlescale
TRAN 1e-06 1.0 0.8
wrdata /home/marex/S2T_REBUILT/Spec2Testbench/results/final_recovery/R2/F6_p24_contract/attempt_1/simulation/vectors.dat v(Vin) v(Vout)
quit
.endc
.end
